US07635715B2
A suspension of 1-bromo-4-chloro-2-iodobenzene (2.5 g, 7.9 mmol), 3,3,3-triethoxyprop-1-yne (2.4 g, 13.9 mmol), copper(I) iodide, (455 mg, 2.3 mmol), and trans-dichlorobis(triphenylphosphine)palladium(II) (559 mg, 0.79 mmol) was treated with ACN (30 mL). The reaction was capped, evacuated under vacuum, backfilled with argon, and treated with TEA (9.9 mL, 71.6 mmol). The reaction was stirred at 23° C. After 2 hours, the reaction mixture was concentrated in vacuo to remove all solvents, diluted with EtOAc (250 mL) and washed with brine (150 mL), dried over MgSO4, concentrated in vacuo and purified by silica gel chromatography (eluant: 4% EtOAc/hexane+1% TEA), affording 2.6 g of 1-bromo-4-chloro-2-(3,3,3-triethoxyprop-1-ynyl)benzene.

reactant | 1-bromo-4-chloro-2-iodobenzene | 7.9 mmol, 2.5 g | BrC1=C(C=C(C=C1)Cl)I | C6H3BrClI
reactant | 3,3,3-triethoxyprop-1-yne | 13.9 mmol, 2.4 g | C(C)OC(C#C)(OCC)OCC | C9H16O3
catalyst | copper(I) iodide | 2.3 mmol, 455 mg | [Cu]I
catalyst | trans-dichlorobis(triphenylphosphine)palladium(II) | 0.79 mmol, 559 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | ACN | 30 mL | C(C)#N | C2H3N
product | 1-bromo-4-chloro-2-(3,3,3-triethoxyprop-1-ynyl)benzene | 2.6 g | BrC1=C(C=C(C=C1)Cl)C#CC(OCC)(OCC)OCC | C15H18BrClO3
